US07687499B2
(4-Cyclopropyl-piperazin-1-yl)-(4-morpholin-4-ylmethyl-phenyl)-methanone
A solution of (4-morpholin-4-ylmethyl-phenyl)-piperazin-1-yl-methanone (0.128 g) in methanol (7.5 mL) was treated with (1-ethoxy-cyclopropoxy)-trimethyl-silane (1.5 mL), acetic acid (0.2 mL), and NaBH3CN (˜400 mg). The mixture was heated at 60° C. for 18 h, and then was cooled to rt and concentrated. The residue was diluted with 1 N NaOH and extracted with CH2Cl2. The organic layer was dried (Na2SO4) and concentrated. The residue was purified by column chromatography (SiO2) to give the title compound (0.0548 g, 38%). MS (ESI): mass calcd. for C19H27N3O2, 329.21; m/z found, 330.4 [M+H]+. 1H NMR (CDCl3): 7.36 (s, 4H), 3.79-3.68 (m, 6H), 3.50 (s, 2H), 3.44-3.32 (m, 2H), 2.74-2.61 (m, 2H), 2.60-2.50 (s, 2H), 2.45-2.40 (m, 4H), 1.66-1.62 (m, 1H), 0.49-0.44 (m, 2H), 0.44-0.39 (m, 2H).

reactant | (4-morpholin-4-ylmethyl-phenyl)-piperazin-1-yl-methanone | 0.128 g | N1(CCOCC1)CC1=CC=C(C=C1)C(=O)N1CCNCC1 | C16H23N3O2
reactant | (1-ethoxy-cyclopropoxy)-trimethyl-silane | 1.5 mL | C(C)OC1(CC1)O[Si](C)(C)C | C8H18O2Si
reactant | acetic acid | 0.2 mL | C(C)(=O)O | C2H4O2
reactant | NaBH3CN | ˜400 mg | [BH3-]C#N.[Na+]
solvent | methanol | 7.5 mL | CO | CH4O
product | (4-Cyclopropyl-piperazin-1-yl)-(4-morpholin-4-ylmethyl-phenyl)-methanone | 0.0548 g, 38% | C1(CC1)N1CCN(CC1)C(=O)C1=CC=C(C=C1)CN1CCOCC1 | C19H27N3O2
